US09290589B2
Synthesis of 9-methy-9H-fluoren-9-ol (1)
In a glovebox, in a 50 mL round bottom flask, 9H-fluorene-9-one (5.458 g, 30.3 mmol) was dissolved in 20 mL of THF and cooled to 0° C. for 30 minutes. MeMgBr (1.2 eq.) was then slowly added via syringe while stirring. A slurry formed once all of the Grignard was added. The reaction was allowed to stir for 48 hours. The flask was then removed from the glovebox and 4 mL of 2M NaOH were added. The mixture was washed with brine and the organic portion collected and dried over MgSO4, filtered and the volatiles removed under a N2 stream. NMR of the resultant yellow solid showed pure 9-methyl-9H-fluoren-9-ol. Yield is 5.67 g (95 wt %).

reactant | 9H-fluorene-9-one | 30.3 mmol, 5.458 g | C1=CC=CC=2C3=CC=CC=C3C(C12)=O | C13H8O
reactant | MeMgBr | 1.2 eq. | C[Mg+].[Br-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 9-methy-9H-fluoren-9-ol | CC1(C2=CC=CC=C2C=2C=CC=CC12)O | C14H12O
